US05352388
Preparation of piperidinium 2,4-dihydroxybenzoate
Piperidine (0.85 g; 10 mmol) was added dropwise to a solution of 2,4-dihydroxybenzoic acid (1.54 g; 10 mmol) in ethanol (10 cm3). This mixture was then left at 5° C. overnight, which resulted in the precipitation of a white solid. The product was collected by filtration and recrystallized from water to produce needle-like crystals. Found: C, 61.3%; H, 7.3%; N, 5.9%. Calculated for C12H17NO4 ; C, 60.25%; H, 7.11%; N, 5.85%. M.pt. 210°-211° C.

reactant | Piperidine | 10 mmol, 0.85 g | N1CCCCC1 | C5H11N
reactant | 2,4-dihydroxybenzoic acid | 10 mmol, 1.54 g | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
solvent | ethanol | 10 cm3 | C(C)O | C2H6O
product | piperidinium 2,4-dihydroxybenzoate | OC1=C(C(=O)[O-])C=CC(=C1)O.[NH2+]1CCCCC1 | InChI=1S/C7H6O4.C5H11N/c8-4-1-2-5(7(10)11)6(9)3-4;1-2-4-6-5-3-1/h1-3,8-9H,(H,10,11);6H,1-5H2
